US08222424B2
5-(1-Benzenesulfonyl-1H-pyrrole-3-carbonyl)-2-chloro-benzenesulfonamide
To a suspension of aluminum chloride (1.89 g, 14 mmol) in methylene chloride (10 mL) is added 4-chloro-3-sulfamoyl-benzoyl chloride (2 g, 7.9 mmol). The reaction mixture is stirred at room temperature for 10 minutes then a solution of 1-benzenesulfonyl-1H-pyrrole (1.13 g, 5.45 mmol) in methylene chloride (3.3 mL) is added. After stirring at room temperature overnight, the reaction is quenched with 6 N HCl and extracted with ethyl acetate three times. The combined organic layers are washed with a saturated sodium chloride solution, dried with magnesium sulfate and concentrated in vacuo. Purification by silica gel chromatography (ethyl acetate/hexane: 2:8) provides 0.6 g (26%) of the title compound as a yellow solid. 1H NMR (DMSO): δ 8.30 (s, 1H), 8.15 (m, 2H), 8.05 (m, 2H), 7.80 (m, 4H), 7.70 (m, 2H), 7.40 (m, 1H), 6.70 (m, 1H).

reactant | aluminum chloride | 14 mmol, 1.89 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chloro-3-sulfamoyl-benzoyl chloride | 7.9 mmol, 2 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 1-benzenesulfonyl-1H-pyrrole | 5.45 mmol, 1.13 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=C1 | C10H9NO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.3 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-Benzenesulfonyl-1H-pyrrole-3-carbonyl)-2-chloro-benzenesulfonamide | 0.6 g, 26% | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=C1)C(=O)C=1C=CC(=C(C1)S(=O)(=O)N)Cl | C17H13ClN2O5S2
